US07576089B2
N-{2-[(2S,4R)-4-Benzyloxy-2-isopropylpyrrolidin-1-yl]-2-oxoethyl}-3-(trifluoromethyl)benzamide
(2S,4R)-4-(Benzyloxy)-2-isopropylpyrrolidine (0.410 g, 1.90 mmol) was dissolved in dichloromethane (30 mL) under nitrogen. (3-Trifluoromethyl-benzoylamino)-acetic acid (0.462 g; 1.90 mmol) was added followed by EDC (0.394 g, 2.06 mmol) and the mixture was stirred at room temperature-overnight. LC/MS revealed the reaction was not yet complete. More (3-Trifluoromethyl-benzoylamino)-acetic acid (0.12 g, 0.48 mmoles) and more EDC (0.30 g, 1.6 mmoles) were added and stirring continued for 3 hours at room temperature, then at reflux for 1.5 hours. The mixture was chromatographed on silica gel eluting with 30% ethyl acetate/hexane to provide 0.66 g (79%) of the coupled product as a colorless oil. LC/MS (M+H)+ m/z=449.2; 1H NMR (CDCl3) δ 8.03 (m, 1H), 7.76 (m, 1H), 7.58 (m, 2H), 7.34 (m, 5H), 4.52 (m, 2H), 4.03-4.34 (m, 4H), 3.65 (m, 1H), 3.48 (m, 1H), 2.54 (m, 1H), 2.12 (m, 1H), 1.92 (m, 1H), 0.92 (d, 3H), 0.77 (d, 3H).

reactant | (2S,4R)-4-(Benzyloxy)-2-isopropylpyrrolidine | 1.90 mmol, 0.410 g | C(C1=CC=CC=C1)O[C@@H]1C[C@H](NC1)C(C)C | C14H21NO
reactant | (3-Trifluoromethyl-benzoylamino)-acetic acid | 1.90 mmol, 0.462 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | EDC | 2.06 mmol, 0.394 g
reactant | (3-Trifluoromethyl-benzoylamino)-acetic acid | 0.48 mmoles, 0.12 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | EDC | 1.6 mmoles, 0.30 g
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-{2-[(2S,4R)-4-Benzyloxy-2-isopropylpyrrolidin-1-yl]-2-oxoethyl}-3-(trifluoromethyl)benzamide | 0.66 g, 79% | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C(C)C | C24H27F3N2O3
